US08383644B2
(S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride (25 mg) was reacted with 2,5-dimethyl-oxazole-4-carbonyl chloride according to General Procedure F to give (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (20 mg). This ester was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 800.

reactant | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride | 25 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O
reactant | 2,5-dimethyl-oxazole-4-carbonyl chloride | CC=1OC(=C(N1)C(=O)Cl)C | C6H6ClNO2
product | (S)-2-{[(3S,8S)-3-(4-Cyclohexylmethoxy-phenyl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 20 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)C(=O)C=3N=C(OC3C)C)=O | C48H52N4O8
